US08703815B2
To a solution of (E)-ethyl 3-[4-(methoxymethoxy)-3,5-dimethylstyryl]benzoate (0.6 g, 1.762 mmol) in THF and EtOH ( 6/2 mL) was added 2N NaOH (1.762 mL, 3.524 mmol) at room temperature. The reaction mixture was stirred overnight (about 18 hours) at room temperature and diluted with EtOAc and acidified with 5% citric acid. The solution was washed with saturated brine and dried with Na2SO4. The solution was filtered and concentrated. (E)-3-[4-(methoxymethoxy)-3,5-dimethylstyryl]benzoic acid (0.533 g, 97%) was obtained without further purification (TLC indicated a pure compound).

reactant | (E)-ethyl 3-[4-(methoxymethoxy)-3,5-dimethylstyryl]benzoate | 1.762 mmol, 0.6 g | COCOC1=C(C=C(/C=C/C=2C=C(C(=O)OCC)C=CC2)C=C1C)C | C21H24O4
reactant | NaOH | 3.524 mmol, 2N, 1.762 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-3-[4-(methoxymethoxy)-3,5-dimethylstyryl]benzoic acid | 0.533 g, 97% | COCOC1=C(C=C(/C=C/C=2C=C(C(=O)O)C=CC2)C=C1C)C | C19H20O4
